US07504433B2
3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester
A mixture of 3-(4-Benzyloxy-2-methyl-phenyl)-propionic acid methyl ester (13.7 g, 48.5 mmol) and Pd/C (5%, 13.7 g) in MeOH (423 mL) is stirred under 60 psi of hydrogen for 24 hrs. Catalyst is filtered off, filtrate is concentrated giving the title compound (8.8 g, 93.5%).

reactant | 3-(4-Benzyloxy-2-methyl-phenyl)-propionic acid methyl ester | 48.5 mmol, 13.7 g | COC(CCC1=C(C=C(C=C1)OCC1=CC=CC=C1)C)=O | C18H20O3
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 423 mL | CO | CH4O
catalyst | Pd/C | 13.7 g | [Pd] | Pd
product | 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester | 8.8 g, 93.5% | COC(CCC1=C(C=C(C=C1)O)C)=O | C11H14O3
